US04272533
EXAMPLE 3: 5-chloro-1-p-chlorophenyl-2-(2-dimethylaminoethyl)-3-methylindoline
The title compounds are produced in analogous manner to Example 2, using 5-chloro-1-p-chlorophenyl-2-(2-dimethylaminoethyl)-3-methylindole as starting compound. The major product is the cis compound. M.Pt. of the hydrochloride: 187°-190°. The trans compound is isolated from the mother liquor. M.Pt. of the hydrochloride: 163°-168° (both from acetone).

reactant | 5-chloro-1-p-chlorophenyl-2-(2-dimethylaminoethyl)-3-methylindole | ClC=1C=C2C(=C(N(C2=CC1)C1=CC=C(C=C1)Cl)CCN(C)C)C | C19H20Cl2N2
reactant | hydrochloride | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 5-chloro-1-p-chlorophenyl-2-(2-dimethylaminoethyl)-3-methylindoline | ClC=1C=C2C(C(N(C2=CC1)C1=CC=C(C=C1)Cl)CCN(C)C)C | C19H22Cl2N2
